US08497264B2
In a 250-mL flask, the crude (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (0.609 g, 1.593 mmol) was suspended in THF (30 mL). Boc2O (0.564 g, 2.58 mmol) was added, followed by triethylamine (0.373 mL, 2.69 mmol). The mixture was stirred at rt. After 1.5 h, the reaction was concentrated to afford crude (S)-tert-butyl 2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate which was used directly in the next step.

reactant | (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 1.593 mmol, 0.609 g | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)C=2COCCC2)F)O)COC1 | C21H19FN2O4
reactant | Boc2O | 2.58 mmol, 0.564 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.69 mmol, 0.373 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-tert-butyl 2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | O1CC(=CCC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)O)COCC(=N3)NC(OC(C)(C)C)=O | C26H27FN2O6
